US05057524
4-Chloro-N-phenylbutanamide
A solution of 27.9 g (0.30 mole) of aniline in 100 ml of tetrahydrofuran was added dropwise to a solution of 21.2 g (0.15 mole) of 4-chlorobutyryl chloride in 100 ml of tetrahydrofuran. The reaction mixture was stirred mechanically and the temperature maintained between 5° C. and 15° C. throughout the addition. After the final addition, the solution was filtered to remove solid precipitates and the filtrate was concentrated under reduced pressure to yield 28.9 g (100%) of yellow solid. An analytical sample was prepared by recrystallizing the solid from benzene/petroleum ether (30°-60° C.) to give a white solid, mp 64°-66° C.

reactant | aniline | 0.30 mole, 27.9 g | NC1=CC=CC=C1 | C6H7N
reactant | 4-chlorobutyryl chloride | 0.15 mole, 21.2 g | ClCCCC(=O)Cl | C4H6Cl2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-Chloro-N-phenylbutanamide | 28.9 g, 100% | ClCCCC(=O)NC1=CC=CC=C1 | C10H12ClNO
